US07842688B2
b) tert-Butyl 3-{2-[5-(2-acetylaminoethyl)-6-chloro-2-methylpyrimidin-4-yloxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 1.13 g of tert-butyl 3-{2-[5-(2-azidoethyl)-6-chloro-2-methylpyrimidin-4-yloxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 25 ml of tetrahydrofuran is admixed at room temperature successively with 3.1 ml of water, 0.54 g of triphenylphosphine and 0.74 ml of acetic anhydride. The reaction mixture is stirred at room temperature over 16 hours and subsequently concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.10 (3:1 EtOAc-heptane); Rt=5.49.

reactant | tert-butyl 3-{2-[5-(2-azidoethyl)-6-chloro-2-methylpyrimidin-4-yloxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 1.13 g | N(=[N+]=[N-])CCC=1C(=NC(=NC1Cl)C)OCCOC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C36H47ClN6O7
reactant | water | 3.1 ml | O | H2O
reactant | triphenylphosphine | 0.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetic anhydride | 0.74 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-{2-[5-(2-acetylaminoethyl)-6-chloro-2-methylpyrimidin-4-yloxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)NCCC=1C(=NC(=NC1Cl)C)OCCOC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C38H51ClN4O8
